US09145424B2
Biphenyl-3-ol (TC-IV-119)
3-Bromophenol (1.0 g, 5.78 mmol), phenylboronic acid (1.4 g, 11.48 mmol), potassium carbonate (2.0 g, 14.47 mmol), and PdCl2(PPh3) (1/200 eq.) were added to a solution of dioxane/H2O (20 mL/5 mL). The resulting solution was refluxed for 16 h. The reaction mixture was then partitioned between Et2O and water, and the aqueous phase was extracted with Et2O. The combined organic layer was evaporated to dryness and purified by flash column chromatography (ethyl acetate/hexanes=1/9) to give TC-IV-119 (1.02 g, 100%) as a transparent oil.

reactant | 3-Bromophenol | 5.78 mmol, 1.0 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | phenylboronic acid | 11.48 mmol, 1.4 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 14.47 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane H2O | 20 mL | O1CCOCC1.O
product | Biphenyl-3-ol | C1(=CC(=CC=C1)O)C1=CC=CC=C1 | C12H10O
